US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(thiophen-3-yl)pyrrolidine-2,5-dione was prepared according to Example 40 replacing 2-chloro-4-fluorophenylacetamide with thiophen-3-ylacetamide. Yield 50.3 mg, 15.0%. 1H NMR (DMSO-d6) 400 MHz δ: 11.50 (s, 1H), 7.52 (m, 1H), 7.49 (m, 1H), 7.35 (s, 1H), 7.21 (dd, 1H, J=4.01.2 Hz), 7.16 (d, 1H, 7.6 Hz), 6.89 (d, 1H, J=4.4 Hz), 6.85 (t, 1H, J=6.8 Hz), 4.56 (d, 1H, J=7.2 Hz), 4.41 (d, 1H, J=7.2 Hz), 4.10 (t, 2H, J=6.0 Hz), 2.90 (t, 2H, J=6.0 Hz), 2.10 (m, 2H).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | thiophen-3-ylacetamide | S1C=C(C=C1)CC(=O)N | C6H7NOS
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(thiophen-3-yl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CSC=C2)=O)=O | C19H16N2O2S
